US04332815
Under a nitrogen atmosphere, 25.7 grams (0.40 mole) of n-butyllithium in 168 ml of hexane was added by syringe to 300 ml of diethyl ether. The stirred solution was cooled in an ice-water bath and 70.0 grams (0.40 mole) of 2-(phenylmethyl)thiophene in 100 ml of diethyl ether was added dropwise during a 0.75 hour period. Upon complete addition, the cooling bath was removed and the reaction mixture stirred for 1.5 hours, then transferred to a Morton flask using a nitrogen pressure differential and tubing connecting the reaction vessel with the Morton flask. A solution of 32.3 grams (0.44 mole) of dimethylformamide in 200 ml of diethyl ether was added dropwise. During the addition the reaction mixture was allowed to warm to reflux temperature, then was stirred for 4.5 hours while cooling to ambient temperature. Stirring was continued for an additional 16 hours. The reaction mixture was poured into 400 grams of ice, and solid sodium chloride was added to saturation. After an additional 0.25 hour stirring, the organic layer was separated and the aqueous layer was extracted with two portions of 400 ml each of diethyl ether. The extracts and the organic layer above were combined and washed, in succession, with one portion of 300 ml of a saturated aqueous solution of sodium chloride, one portion of 300 ml of aqueous 2 N hydrochloric acid, one portion of 300 ml of a saturated aqueous solution of sodium chloride, one portion of 300 ml of a saturated aqueous solution of sodium bicarbonate, and finally, one portion of 300 ml of a saturated aqueous solution of sodium chloride. The organic layer was dried with magnesium sulfate, filtered and the filtrate concentrated under reduced pressure to give a residual oil. The residual oil was distilled under reduced pressure using a Kugelrohr distilling system to give 70.2 grams of 5-(phenylmethyl)thiophene-2-carboxaldehyde; b.p. 105° C./0.25 mm.

reactant | n-butyllithium | 0.40 mole, 25.7 grams | C(CCC)[Li]
reactant | 2-(phenylmethyl)thiophene | 0.40 mole, 70.0 grams | C1(=CC=CC=C1)CC=1SC=CC1 | C11H10S
reactant | dimethylformamide | 0.44 mole, 32.3 grams | CN(C=O)C | C3H7NO
reactant | sodium chloride | [Cl-].[Na+]
solvent | hexane | 168 ml | CCCCCC | C6H14
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
product | 5-(phenylmethyl)thiophene-2-carboxaldehyde | 70.2 grams | C1(=CC=CC=C1)CC1=CC=C(S1)C=O | C12H10OS
